US06444850B1
Step 1: Preparation of Methyl o-tolylacetate
30.0 g of o-tolylacetic acid (0.2 mol) was dissolved in 100 ml of methanol, 5 ml of concentrated sulfuric acid was added thereto and the resulting solution was stirred with heating for 6 to 12 hours. The resulting solution was cooled and the solvent was removed under a reduced pressure to obtain a residue. The residue was washed twice with water and extracted with ethyl acetate. The organic layer was dried over magnesium sulfate and the solvent was removed under a reduced pressure. The residue thus obtained was subjected to column chromatography using a mixture of n-hexane and ethyl acetate (4:1) as an eluent to obtain 32.15 g (yield 98%) of the title compound as a colorless liquid.

reactant | o-tolylacetic acid | 0.2 mol, 30.0 g | C1(=C(C=CC=C1)CC(=O)O)C | C9H10O2
reactant | sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 100 ml | CO | CH4O
solvent | n-hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl o-tolylacetate | 32.15 g, yield 98% | C1(=C(C=CC=C1)CC(=O)OC)C | C10H12O2
